US08486953B2
a) Preparation of 2-iso-propoxy-3-nitro-pyridine
iso-Propanol (1.41 mL, 18.48 mmol) was added drop wise into a stirred suspension of sodium hydride (60% dispersion in oil, 0.739 g, 18.48 mmol) in anhydrous THF (20 mL) at 0° C. and the resulting solution stirred for 0.5 hours. To this solution was added 2-fluoro-3-nitropyridine (2.50 g, 17.60 mmol) drop wise in anhydrous THF (10 mL). After complete addition the solution was stirred at 0° C. for 0.5 hours, before being allowed to warm to ambient temperature. The reaction was stirred at ambient temperature for 18 hours, quenched with water (50 mL) and the aqueous layer extracted with diethyl ether (3×50 mL). The organic layers were combined, washed with brine (50 mL), dried (Na2SO4), filtered and concentrated in vacuo. The title compound was obtained as a yellow solid (1.975 g, 61% yield) after purification by flash-column chromatography (petroleum ether (40-60° C.)/DCM).

reactant | iso-Propanol | 18.48 mmol, 1.41 mL | C(C)(C)O | C3H8O
reactant | sodium hydride | 18.48 mmol, 0.739 g | [H-].[Na+]
reactant | 2-fluoro-3-nitropyridine | 17.60 mmol, 2.50 g | FC1=NC=CC=C1[N+](=O)[O-] | C5H3FN2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-iso-propoxy-3-nitro-pyridine | C(C)(C)OC1=NC=CC=C1[N+](=O)[O-] | C8H10N2O3
